US05047404
3,8-Dioxo-6-(2-propoxyphenyl)-3,4,7,8-tetrahydropyrimido[4,5-e][1,2,4]triazine
A stirred mixture of 3-methylthio-8-oxo-6-(2-propoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine (0.5 g) and sodium methoxide (prepared from sodium, 0.17 g, and methanol) in methanol (50 ml) was heated under reflux for 3 hours. The cooled reaction mixture was evaporated under reduced pressure to afford a yellow solid which was dissolved in water and acidified with 2 Normal hydrochloric acid to yield a yellow solid (420 mg) which was recrystallised from dimethylformamide to afford the title compound, 0.16 g, m.p. 298°-299° C.

reactant | 3-methylthio-8-oxo-6-(2-propoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine | 0.5 g | CSC=1N=NC2=C(N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C15H15N5O2S
reactant | sodium methoxide | 0.17 g | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | water | O | H2O
product | 3,8-Dioxo-6-(2-propoxyphenyl)-3,4,7,8-tetrahydropyrimido[4,5-e][1,2,4]triazine | 420 mg | O=C1N=NC2=C(N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C14H13N5O3
